### PR TITLE
[Merged by Bors] - feat: equivalent characterisation of split continuous linear maps

### PR DESCRIPTION
**Pull request by grunweg**
We add an equivalent characterisation of continuous linear maps with a continuous left inverse:
`f` admits a continuous left inverse iff it is injective, has closed range and `range f` has a closed complement.

This equivalence is used for extracting an explicit complement for immersions, hence transitively for proving that immersions are closed under composition.

From the path towards immersions, submersions and embedded submanifolds.

---

- [x] depends on: #34991

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Submodule/Range.lean [hunk 1]
```diff
@@ -208,13 +208,25 @@ theorem comap_le_comap_iff {f : M →ₛₗ[τ₁₂] M₂} (hf : range f = ⊤)
 theorem comap_injective {f : M →ₛₗ[τ₁₂] M₂} (hf : range f = ⊤) : Injective (comap f) := fun _ _ h =>
   le_antisymm ((comap_le_comap_iff hf).1 (le_of_eq h)) ((comap_le_comap_iff hf).1 (ge_of_eq h))
 
--- TODO (?): generalize to semilinear maps with `f ∘ₗ g` bijective.
+-- TODO (?): generalize the next two lemmas to semilinear maps with `f ∘ₗ g` bijective.
+
+
```
Comment (grunweg) [inline Mathlib/Algebra/Module/Submodule/Range.lean]:
```suggestion
```

File: Mathlib/Analysis/Normed/Module/ContinuousInverse.lean [hunk 2]
```diff
@@ -0,0 +1,369 @@
...
+  rintro ⟨y, x, rfl⟩
+  ext
+  simp only [coe_coe, coe_codRestrict_apply, coe_comp', Function.comp_apply]
+  rw [hf.leftInverse_leftInverse]
+
+variable {R E F : Type*} [NontriviallyNormedField R]
+  [NormedAddCommGroup E] [NormedSpace R E] [CompleteSpace E]
+  [NormedAddCommGroup F] [NormedSpace R F] [CompleteSpace F]
+
+/-- A split linear map has a bounded left inverse. -/
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Module/ContinuousInverse.lean]:
```suggestion
/-- A split linear map has a continuous left inverse. -/
```

File: Mathlib/Analysis/Normed/Module/ContinuousInverse.lean [hunk 3]
```diff
@@ -181,6 +190,88 @@ end NontriviallyNormedField
...
+  rw [← f.range_toLinearMap, ← f.coe_range,
+    f.range_eq_ker_of_leftInverse (hf.leftInverse_leftInverse)]
+  exact ((f.comp hf.leftInverse) - (ContinuousLinearMap.id R F)).isClosed_ker
+
+lemma HasLeftInverse.splits {f : E →L[R] F} (hf : f.HasLeftInverse) : f.Splits := by
+  refine ⟨hf.injective, hf.isClosed_range, ?_⟩
+  -- Idea of proof: let g be a left inverse for f. Then ker g is a closed subspace of F,
+  -- and a complement to range f.
+  -- Mathlib's definition of closed complement takes a continuous projection to f.range instead
+  -- of a complementary subspace: consider `f.comp g` instead, which is continuous as both maps are.
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Module/ContinuousInverse.lean]:
```suggestion
  -- of a complementary subspace: consider `f.comp g` instead, which is continuous as both maps are,
```

File: Mathlib/Analysis/Normed/Module/ContinuousInverse.lean [hunk 4]
```diff
@@ -181,6 +190,88 @@ end NontriviallyNormedField
...
 end HasLeftInverse
 
+/-! An equivalent characterisation of maps with a continuous left inverse -/
+section
+
+variable {R E F : Type*} [Ring R]
+  [TopologicalSpace E] [AddCommGroup E] [Module R E]
+  [TopologicalSpace F] [AddCommGroup F] [Module R F]
+
+/-- A continuous linear map `f : E → F` **splits** iff it is injective, has closed range and
```
Comment (chrisflav) [inline Mathlib/Analysis/Normed/Module/ContinuousInverse.lean]: Is this standard terminology? In categorical terms, “splits” means “has left/right inverse”. E.g. “split monomorphism”

File: Mathlib/Analysis/Normed/Module/ContinuousInverse.lean [hunk 5]
```diff
@@ -181,6 +190,88 @@ end NontriviallyNormedField
...
+  rintro ⟨y, x, rfl⟩
+  ext
+  simp only [coe_coe, coe_codRestrict_apply, coe_comp', Function.comp_apply]
+  rw [hf.leftInverse_leftInverse]
+
+variable {R E F : Type*} [NontriviallyNormedField R]
+  [NormedAddCommGroup E] [NormedSpace R E] [CompleteSpace E]
+  [NormedAddCommGroup F] [NormedSpace R F] [CompleteSpace F]
+
+/-- A split linear map has a continuous left inverse. -/
```
Comment (chrisflav) [inline Mathlib/Analysis/Normed/Module/ContinuousInverse.lean]: This should mention the completeness assumptions

File: Mathlib/Analysis/Normed/Module/ContinuousInverse.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Analysis/Normed/Module/ContinuousInverse.lean]: I just double-checked: I had picked up the term from the above context --- which might be not useful. Would you prefer for me to remove this definition, and just prove the necessary lemmas by hand? (That would certainly be shorter.)

Comment (grunweg) [reply Mathlib/Analysis/Normed/Module/ContinuousInverse.lean]: I removed the definition, and stated everything "by hand" instead. This should also suffice for my purposes.

**Review by j-loreaux — COMMENTED** [review]
This is nice, thanks!

bors merge
